US04749792
(B) [(S)-1-[1-Hydroxy-2-[(2-methylpropyl)amino]ethyl]-3-methylbutyl]carbamic acid, 1,1-dimethylethyl ester, hydrochloride
1-[(RS)-1-Hydroxy-2-[(2-methylpropyl)(phenylmethyl)amino]ethyl]-3-methylbutylcarbamic acid, 1,1-dimethylethyl ester, hydrochloride (1.67 g, 4.25 mmol) was dissolved in methanol (50 ml) and hydrochloric acid (1N, 4.25 ml) was added. The solution was stirred under an atmosphere of hydrogen in the presence of palladium hydroxide on carbon catalyst (0.36 g) for two hours. It was filtered through Hyflo and concentrated to dryness in vacuo (1.31 g).

reactant | 1-[(RS)-1-Hydroxy-2-[(2-methylpropyl)(phenylmethyl)amino]ethyl]-3-methylbutylcarbamic acid, 1,1-dimethylethyl ester, hydrochloride | 4.25 mmol, 1.67 g | Cl.OC(CN(CC1=CC=CC=C1)CC(C)C)C(CC(C)C)NC(OC(C)(C)C)=O
reactant | hydrochloric acid | 1N, 4.25 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.36 g | [OH-].[OH-].[Pd+2]
product | [(S)-1-[1-Hydroxy-2-[(2-methylpropyl)amino]ethyl]-3-methylbutyl]carbamic acid, 1,1-dimethylethyl ester, hydrochloride | Cl.OC(CNCC(C)C)[C@H](CC(C)C)NC(OC(C)(C)C)=O | InChI=1S/C16H34N2O3.ClH/c1-11(2)8-13(14(19)10-17-9-12(3)4)18-15(20)21-16(5,6)7;/h11-14,17,19H,8-10H2,1-7H3,(H,18,20);1H/t13-,14?;/m0./s1
